2101-11-12 06:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2101-11-11**] 03:39 PM
   CT placed at bedside with IP
   F/U CXR showed small L apical PTX
   Pt became hypotensive at 2am. Stat CXR did not show worsening of PTX.
   Started fluids but 1 PIV became infiltrated.  Several attempts at
   peripherals.  Discussed central line but when attempting to position,
   pt became tachypneic, was uncomfortable, could not breathe, refusing
   procedure.  Understood risks/benefits.
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-12**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 90 (40 - 96) bpm
   BP: 93/54(62) {78/39(51) - 128/59(71)} mmHg
   RR: 18 (11 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
                  Total In:
                                                                    756 mL
                  PO:
                                                                    230 mL
                  TF:
   IVF:
   Blood products:
                                                                    526 mL
   Total out:
                                                                  3,475 mL
                                                                    255 mL
   Urine:
                                                                  1,025 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,719 mL
                                                                   -255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.33/72/105/39/8
   Physical Examination
   Gen: morbidly obese, pale female, tachypnic, oriented x3
   HEENT: NC AT EOMI, PERRL, oropharynx clear
   CV: irregularly irregular, normal rate, no appreciable murmur
   Lungs: bronchial breath sounds over entire L lung, bronchial breath
   sounds base of R lung
   Abd: obese, soft, NT, ND, BS+
   Ext: pitting edema bilaterally to sacrum
   Neuro: A&Ox3, strength 0/5 in LE bilaterally
   skin: multiple areas of skin breakdown appear to be in stages of
   healing, no evidence of acute infection
   Labs / Radiology
   429 K/uL
   8.5 g/dL
   150 mg/dL
   1.0 mg/dL
   39 mEq/L
   4.4 mEq/L
   38 mg/dL
   96 mEq/L
   138 mEq/L
   27.3 %
   9.0 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
   WBC
   9.0
   Hct
   27.3
   Plt
   429
   Cr
   1.0
   TCO2
   40
   Glucose
   167
   150
   Other labs: PT / PTT / INR:17.1/28.7/1.5, Lactic Acid:0.7 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 71 yo female with bilateral lower extremity paralysis
   s/p fall w/epidural hematoma and cord compression, h/o DVT s/p IVC
   filter, DM2, Afib with large L sided effusion and hypercarbic
   respiratory failure.
   .
   #Hypercarbic respiratory failure: most likely due to combination of
   large left sided pleural effusion and associated atelectasis.  No
   evidence of obstructive airways disease on exam to explain her
   hypercarbia.  Also no clear evidence to support acute change such as PE
   to cause her symptoms.  Effusion most likely due to combination of Afib
   w/RVR and diastolic dysfunction as well as poor nutritional status.  No
   preceding PNA or pulmonary mass to support malignant effusion or
   empyema.
   -IP to place pigtail drain at bedside today to relieve pleural effusion
   and hopefully allow for re-expansion of L lung
   -start lasix gtt for improved diuresis
   -continue with rate control with metoprolol
   -continue to support nutritional status
   -send pleural fluid for analysis
   .
   #Afib with RVR - she was started on metoprolol post operatively for
   Afib with RVR.  Currently well rate controlled.
   -continue metoprolol
   .
   #h/o DVT, s/p IVC filter placement: Patient has a history of L
   popliteal DVT, during her last admisison she had negative LENI's
   however due to concern about restarting coumadin in the setting of
   epidural bleed an IVC filter was placed by IR.  Prior to her discharge
   to rehab she was restarted on coumdain and had an INR of 2.3 on
   admission.
   - will transition to heparin gtt following thoracentesis today
   -restart coumadin tomorrow if doing well post [**Female First Name (un) 217**]
   .
   #Anasarca - likely [**1-29**] diastolic chf c/b afib w/rvr as well as poor
   nutritional status.
   -start lasix gtt if stable following procedure with goal diuresis -1-2L
   -f/u [**Hospital1 7**] lytes and replete prn
   -monitor bicarb, may need to hold off on diuresis if appears to be
   intravascularly depleted (does have slight creatinine/HCO3 bump today)
   -continue to support nutrition
   .
   #. Type 2 Diabetes Mellitus: Stable
   - continue glargine and insulin sliding scale
   .
   #C.diff - diagnosed during her recent admission, started on flagyl, no
   apparent complications.
   - continue flagyl to be completed on [**2101-11-15**] (7 days after ampicillin
   stopped)
   .
   #Skin breakdown - she has multiple areas of skin breakdown likely due
   to poor nutritional status and anasarca as well as new paralysis.
   -continue to support nutritional status, appreciate nutrition reccs
   -f/u wound care reccs
   .
   #Hyperlipidemia: Stable
   - continue fenofibrate and pravastatin
   .
   # FEN: diabetic diet; replete lytes prn
   - continue multivitamin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-11-12**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-11-12 12:21:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Pt s/p pigtail placement with small PTX seen
 CHEST TUBE PLACED - At [**2101-11-11**] 03:39 PM
   CT placed at bedside with IP - pigtail drain
   Hypotension last night, 2nd 18 guage placed and plan for CVL but then
   BPs improved.
   Did not restart heparin
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2101-11-12**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 94 (40 - 96) bpm
   BP: 112/63(73) {78/39(51) - 122/63(73)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
                  Total In:
                                                                    756 mL
                                                                    180 mL
   PO:
                                                                    230 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
                                                                    526 mL
   Total out:
                                                                  3,475 mL
                                                                    570 mL
   Urine:
                                                                  1,025 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   150 mL
   Balance:
                                                                 -2,719 mL
                                                                   -390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///39/
   Physical Examination
   Gen: alert and conversant
   CV: RR
   Ches: fair airmovement, no wheezes or ralest
   Abd : obese soft NT
   Ext: feet in multi podus boots
   Labs / Radiology
   8.5 g/dL
   429 K/uL
   150 mg/dL
   1.0 mg/dL
   39 mEq/L
   4.4 mEq/L
   38 mg/dL
   96 mEq/L
   138 mEq/L
   27.3 %
   9.0 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
   WBC
   9.0
   Hct
   27.3
   Plt
   429
   Cr
   1.0
   TCO2
   40
   Glucose
   167
   150
   Other labs: PT / PTT / INR:17.1/28.7/1.5, Lactic Acid:0.7 mmol/L,
   Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 PLEURAL EFFUSION, ACUTE
 IMPAIRED SKIN INTEGRITY
   71 yo female with complicated recent medical history resulting in LE
   paralysis bilaterally and now admitted with worsening hypercarbic
   respiratory failure.  This is likely related to some background
   ventilatory compromise with co-existing disease in addition to what is
   likey both a combination of lung collapse as well as pleural effusion
   in the left lung.  The mode to support her will be a combination of
   non-invasive ventilatory support as well as drainage of effusions.
   Respiratory Failure-
   Thoracentesis today on the left, Will need to re-evaluate post tap for
   residual collapse
   Close monitoring for PTX on the right
   -Will consider CT scan following tap of fluid when parenchyma can be
   visualized
   -Heparin to restart post tap
   -Will need analysis of fluid post tap but does need to be drained to
   allow improved ventilation and perfusion.
   -IC 10x/hr while awake
   -Will need ongoing diruesis and nutrition
   Hemodynamics: has been hypotensive overnight, RX with OIVF, CVL placed
   for invasive monitoring
 7 mmg HG , looks dry getting further IVF to
   [**Doctor First Name **] CVP 10-12, watch UOP. Alternatibe DDX would be sepsis but has been
   stable ABC and afebrile. Low threshold for brado spectrum ABX if
   spikes.
   C. Diff Colitis-
   -Flagyl to continue day [**8-11**]
   Atrial Fibrillation-Heparin to restart post procedure -Rate control
   ICU Care
   Nutrition: restart pos
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-11-12**] 04:00 AM
   Prophylaxis:
   DVT: heparin gtts
   Stress ulcer: ppi
   Communication:  with pt
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent: 45

2101-11-13 07:17:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
     * had R side pigtail placed by IP -> drained 1000cc of bloody fluid
       by midnight
     * had R subclavian line placed by IP
     * hypotensive w/maps in 50's when patient sleeping.  Given 500cc, 1L,
       500cc, MAPs improved.  checked a cxr that showed improving R sided
       effusion and no pneumothorax. checked repeat Hct given high output
       of pigtail catheter - Hct 24.7 from 27.3 (after 2L NSS)
     * pleural effusion from R chest: exudative vs transudative? (LDH
       ratio 60%, protein ratio 26%)
     * pleural effusion from L chest transudative
     * CXR w/apical pneumonia
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Antibiotics:
   Metronidazole
   Infusions:
   Other ICU medications:
   Fentanyl - [**2101-11-12**] 01:00 PM
   Heparin Sodium - [**2101-11-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No complaints
   Flowsheet Data as of  [**2101-11-13**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 86 (75 - 102) bpm
   BP: 100/55(64) {83/34(45) - 113/66(77)} mmHg
   RR: 12 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
    CVP: 12 (6 - 15)mmHg
   Total In:
                                                                  2,157 mL
                                                                    697 mL
   PO:
                                                                    420 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,737 mL
                                                                    637 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    504 mL
   Urine:
                                                                  1,085 mL
                                                                    241 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -243 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   Gen: morbidly obese, pale female, tachypnic, oriented x3
   HEENT: NC AT EOMI, PERRL, oropharynx clear
   CV: irregularly irregular, normal rate, no appreciable murmur
   Lungs: bronchial breath sounds over B/L lungs. Decreased breath sounds
   over L apex.  R subclavian in place, small amount of bleeding under
   bandage.
   Abd: obese, soft, NT, ND, BS+
   Ext: pitting edema bilaterally to sacrum
   Neuro: A&Ox3
   skin: multiple areas of skin breakdown appear to be in stages of
   healing, no evidence of acute infection
   Labs / Radiology
   352 K/uL
   7.9 g/dL
   136 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.3 mEq/L
   36 mg/dL
   96 mEq/L
   136 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
                            [**2101-11-12**]  11:54 PM
                            [**2101-11-13**]  06:09 AM
   WBC
   9.0
   6.5
   5.7
   Hct
   27.3
   24.7
   24.3
   Plt
   429
   349
   352
   Cr
   1.0
   1.0
   TCO2
   40
   Glucose
   167
   150
   136
   Other labs: PT / PTT / INR:19.6/150.0/1.8, Differential-Neuts:75.4 %,
   Band:0.0 %, Lymph:11.3 %, Mono:4.3 %, Eos:8.6 %, Lactic Acid:0.7
   mmol/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 71 yo female with bilateral lower extremity paralysis
   s/p fall w/epidural hematoma and cord compression, h/o DVT s/p IVC
   filter, DM2, Afib with large L sided effusion and hypercarbic
   respiratory failure.
   .
   #Hypercarbic respiratory failure: most likely due to b/l pleural
   effusions and associated atelectasis.  No evidence of obstructive
   airways disease on exam to explain her hypercarbia.  CT showed no PT
   but had multifocal pneumonia.  Effusion most likely due to combination
   of Afib w/RVR and diastolic dysfunction as well as poor nutritional
   status.  No preceding PNA or pulmonary mass to support malignant
   effusion or empyema.   Pleural fluid looks like transudative process.
   CXR in evening shows apical pneumothorax on L (also seen post-pigtail
   placement)
   - Vancomycin and levoquin for hospital acquired pneumonia
 will give
   10 day course since patient afebrile, not producing sputum
   - to consider BAL sample if cannot get sputum sample
   - blood culture
   -urine legionella Cx
   -repeat cxr to eval for worsening pneumothorax
   -continue with rate control with metoprolol, hold for hypotension
   -continue to support nutritional status
 encourage PO intake
   #Hypotension: Improved with 2L of NS last night.  Patient with UOP last
   night usually >30cc/hr.  Hypotension likely a combination of poor PO
   intake over last 48 hours, aggressive diuresis at rehab facility, and
   high output from pigtail catheters (R side produced 1L fluid in approx
   10 hours yesterday)
   -          500 cc NS boluses as needed
   -          Encourage PO intake
   -          Maintenance fluids
   .
   #Afib with RVR - she was started on metoprolol post operatively for
   Afib with RVR.  Currently well rate controlled.
   -continue metoprolol
   .
   #h/o DVT, s/p IVC filter placement: Patient has a history of L
   popliteal DVT, during her last admisison she had negative LENI's
   however due to concern about restarting coumadin in the setting of
   epidural bleed an IVC filter was placed by IR.  Prior to her discharge
   to rehab she was restarted on coumdain and had an INR of 2.3 on
   admission.
   - will transition to heparin gtt following thoracentesis today
   -d/w IP when to re-start coumadin
   .
   #Anasarca - likely [**1-29**] diastolic chf c/b afib w/rvr as well as poor
   nutritional status.
   -start lasix gtt if stable following procedure with goal diuresis -1-2L
   -f/u [**Hospital1 7**] lytes and replete prn
   -continue to support nutrition
   .
   #. Type 2 Diabetes Mellitus: Stable
   - continue glargine and insulin sliding scale
   ..
   #Skin breakdown - she has multiple areas of skin breakdown likely due
   to poor nutritional status and anasarca as well as new paralysis.
   -continue to support nutritional status, appreciate nutrition reccs
   -f/u wound care reccs
   .
   #Hyperlipidemia: Stable
   - continue fenofibrate and pravastatin
   .
   # FEN: diabetic diet; replete lytes prn
   - continue multivitamin
   #Prophylaxis: stress ulcer prophylaxis, will start heparin gtt today
   # Code Status: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-11-12**] 04:00 AM
   Multi Lumen - [**2101-11-12**] 01:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-11-13 10:04:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 71 yr old woman with traumatic fall and paralysis presents with
   resp failure in setting of bilat pl effusions, Afib w RVR
   24 Hour Events:
 CHEST TUBE PLACED  on the right with 1 lietr output - At [**2101-11-12**]
   12:30 PM
 MULTI LUMEN - START [**2101-11-12**] 01:13 PM
   Chest CT with smaller effusions, bilat small apical PTX and diffuse
   ground glass.
   BP low range over night given 1 liter IVF and repeat CXR without change
   in left sided PTX. Stable HCT
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2101-11-13**] 07:38 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Fentanyl - [**2101-11-12**] 01:00 PM
   Heparin Sodium - [**2101-11-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: hypotension
   Flowsheet Data as of  [**2101-11-13**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 87 (75 - 102) bpm
   BP: 100/50(62) {83/34(45) - 113/66(77)} mmHg
   RR: 27 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
   CVP: 12 (6 - 15)mmHg
   Total In:
                                                                  2,157 mL
                                                                  1,035 mL
   PO:
                                                                    420 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,737 mL
                                                                    855 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    654 mL
   Urine:
                                                                  1,085 mL
                                                                    391 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -243 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   Gen: alert and conversant
   CV: RR
   Ches: fair air movement, decreased BS both bases
   Abd : obese soft NT
   Ext: feet in multi podus boots
   Labs / Radiology
   7.9 g/dL
   352 K/uL
   136 mg/dL
   1.0 mg/dL
   37 mEq/L
   4.3 mEq/L
   36 mg/dL
   96 mEq/L
   136 mEq/L
   24.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
                            [**2101-11-12**]  11:54 PM
                            [**2101-11-13**]  06:09 AM
   WBC
   9.0
   6.5
   5.7
   Hct
   27.3
   24.7
   24.3
   Plt
   429
   349
   352
   Cr
   1.0
   1.0
   TCO2
   40
   Glucose
   167
   150
   136
   Other labs: PT / PTT / INR:19.6/150.0/1.8, Differential-Neuts:75.4 %,
   Band:0.0 %, Lymph:11.3 %, Mono:4.3 %, Eos:8.6 %, Lactic Acid:0.7
   mmol/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   71 yr old woman with traumatic fall and paralysis presents with resp
   failure in setting of bilat pl effusions, Afib w RVR now s/p bilat
   pigtail catheter placements by IP with drainage, small bilat apical
   PTX, and repeat CT shows re expanded lungs with extensive ground glass
   underneath. Yet she lacks fever phlegm or leukocytosis to support
   signifcant active PNA .
 HYPOTENSION (NOT SHOCK)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 PLEURAL EFFUSION, ACUTE
 IMPAIRED SKIN INTEGRITY
   1. Resp Distress: overall improvement in resp status with drainage of
   effusions down to 2 liters nasal cannula. Post tap underlying lungs
   with extensive GGO- given her prolonged hosp stays and new hypotension
   will Rx for nosocomial PNA with Vanco Levo and gather data. It is
   notable however that the desire to treat is driven by abnomrla CT and
   her relative hypotension not truly a clinical case of cough and phlegm
   so this course will need to be evaluated on a dialy basis. IP had
   queried about BAL but she would need sedation and BP are borderline
   will try for expectortation and if fails can re evaluate later in day
   or early AM.
   2. Hypotension: MAPs drifting down in 50
 has been fluid responsive.
   Likely combination of hypovolemia
 poor pos and known pHTN, we will
   bolus another liter watch CVP and UOP. Could be early sepsis as above
   and as such we will plan for Rx with ABX and pan culture
   3. Bilat pleural effusions: CT in place, persistent apical PTX, could
   be failed of lung to completely re expand.
   4. Severe skin breakdown: wound care consult and meds
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2101-11-12**] 04:00 AM
   Multi Lumen - [**2101-11-12**] 01:13 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: ppi
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Crtical Care 40 min

2101-11-14 05:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CXR: sm. apical PTX, L-sided effusion
   - IP recs bronch & BAL  to r/o PNA, cont. chest tubes on suction
   - Vanc & levo started for 10 day course ([**11-13**] - [**11-22**])
   - pan-cultured
   - cont. heparin gtt
   - To do: check with ortho when staples can be removed
   - 500cc bolus for falling bp & urine output
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2101-11-13**] 04:21 PM
   Vancomycin - [**2101-11-13**] 07:52 PM
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-14**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 89 (77 - 103) bpm
   BP: 104/52(64) {87/44(54) - 111/60(72)} mmHg
   RR: 14 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
    CVP: 17 (12 - 18)mmHg
   Total In:
                                                                  3,706 mL
                                                                  1,193 mL
   PO:
                                                                  1,020 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,686 mL
                                                                    993 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    437 mL
   Urine:
                                                                    847 mL
                                                                    203 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,296 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///36/
   Physical Examination
   Gen: morbidly obese, pale female, tachypnic, oriented x3
   HEENT: NC AT EOMI, PERRL, oropharynx clear
   CV: irregularly irregular, normal rate, no appreciable murmur
   Lungs: bronchial breath sounds over B/L lungs. Decreased breath sounds
   over L apex.  R subclavian in place, small amount of bleeding under
   bandage.
   Abd: obese, soft, NT, ND, BS+
   Ext: pitting edema bilaterally to sacrum
   Neuro: A&Ox3
   skin: multiple areas of skin breakdown appear to be in stages of
   healing, no evidence of acute infection
   Labs / Radiology
   331 K/uL
   6.9 g/dL
   159 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.3 mEq/L
   32 mg/dL
   100 mEq/L
   137 mEq/L
   22.2 %
   6.6 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
                            [**2101-11-12**]  11:54 PM
                            [**2101-11-13**]  06:09 AM
                            [**2101-11-13**]  02:38 PM
                            [**2101-11-14**]  05:00 AM
   WBC
   9.0
   6.5
   5.7
   6.6
   Hct
   27.3
   24.7
   24.3
   22.2
   Plt
   429
   349
   352
   331
   Cr
   1.0
   1.0
   1.0
   0.8
   TCO2
   40
   Glucose
   167
   150
   136
   152
   159
   Other labs: PT / PTT / INR:18.7/123.9/1.7, Ca++:7.5 mg/dL, Mg++:2.0
   mg/dL, PO4:2.0 mg/dL; repeat hct 24.6
   Urine: Legionella antigen negative; pleural fluid
 no microbes, no
   growth
   Assessment and Plan
   Ms. [**Known lastname **] is a 71 yo female with bilateral lower extremity paralysis
   s/p fall w/epidural hematoma and cord compression, h/o DVT s/p IVC
   filter, DM2, Afib with large L sided effusion and hypercarbic
   respiratory failure.
   .
   #Hypercarbic respiratory failure: most likely due to b/l pleural
   effusions and associated atelectasis with concern for superimposed
   multifocal pneumonia.  No evidence of obstructive airway disease on
   exam to explain her hypercarbia.  CT showed improvement in pleural
   effusions with bilateral small PTXs, and also multifocal pneumonia.
   Effusion most likely due to combination of Afib w/RVR and diastolic
   dysfunction as well as poor nutritional status.  No preceding PNA or
   pulmonary mass to support malignant effusion or empyema.   Pleural
   fluid looks like transudative process. CXR in evening shows apical
   pneumothorax on L (also seen post-pigtail placement).  Urine legionella
   antigen negative.
   - Vancomycin and levoquin for hospital acquired pneumonia
 will give
   10 day course ([**11-13**] to [**11-22**]) since patient afebrile, not producing
   sputum
   - to consider BAL sample if cannot get sputum sample and patient
   clinically worsens
   - blood culture
   -repeat cxr to eval for worsening pneumothorax
   -continue with rate control with metoprolol, hold for hypotension
   -continue to support nutritional status
 encourage PO intake
   -consider stopping flagyl pending culture results
   #Hypotension: Improved from day prior, but still present.  Likely a
   combination of poor PO intake and high output from pigtail catheters.
   -          500 cc NS boluses as needed
   -          Encourage PO intake
   -          Maintenance fluids
   .
   #Afib with RVR - she was started on metoprolol post operatively for
   Afib with RVR.  Currently well rate controlled, but most recent doses
   held due to hypotension.
   -continue metoprolol as allowed by BP
   .
   # Chest tubes/pigtails: Left tube with 50 cc output over 24 hrs
 will
   plan to seal and eventually remove.  Right pigtail with 500 cc output
   over 24 hrs.  Will allow it to continue to drain.
   - f/u CXR to assess for status of effusions and PTXs.
   # Hematocrit drop: hct stable per repeat hct this am, however, hct is
   down since admission.
   -check [**Hospital1 7**] hct.
   -consider stopping heparin if evidence of bleeding
   -guaiac all stools.
   #h/o DVT, s/p IVC filter placement: Patient has a history of L
   popliteal DVT, during her last admisison she had negative LENI's
   however due to concern about restarting coumadin in the setting of
   epidural bleed an IVC filter was placed by IR.  Prior to her discharge
   to rehab she was restarted on coumdain and had an INR of 2.3 on
   admission.
   - on heparin gtt
   -d/w IP when to re-start coumadin
   .
   #Anasarca - likely [**1-29**] diastolic chf c/b afib w/rvr as well as poor
   nutritional status.
   -holding lasix secondary to hypotension
   -continue to support nutrition
   .
   #. Type 2 Diabetes Mellitus: Stable
   - continue glargine and insulin sliding scale
   .
   #Skin breakdown - she has multiple areas of skin breakdown likely due
   to poor nutritional status and anasarca as well as new paralysis.
   -continue to support nutritional status, appreciate nutrition reccs
   -f/u wound care reccs
   .
   #Hyperlipidemia: Stable
   - continue fenofibrate and pravastatin
   .
   # FEN: diabetic diet; replete lytes prn
   -          continue multivitamin
   -          IVF boluses in 500 cc increments to support BP
   #Prophylaxis: wound care, heparin gtt, bowel regimen
   # Code Status: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-11-12**] 01:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-11-14 09:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Vanco/Levofloxacin started for possible pneumonia in the setting of
   pulmonary infiltrates
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2101-11-13**] 04:21 PM
   Vancomycin - [**2101-11-14**] 08:00 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2101-11-14**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 99 (77 - 103) bpm
   BP: 94/58(65) {84/44(54) - 111/60(72)} mmHg
   RR: 22 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
   CVP: 16 (14 - 18)mmHg
   Total In:
                                                                  3,706 mL
                                                                  1,817 mL
   PO:
                                                                  1,020 mL
                                                                    350 mL
   TF:
   IVF:
                                                                  2,686 mL
                                                                  1,467 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    562 mL
   Urine:
                                                                    847 mL
                                                                    328 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,296 mL
                                                                  1,255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.9 g/dL
   331 K/uL
   159 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.3 mEq/L
   32 mg/dL
   100 mEq/L
   137 mEq/L
   24.6 %
   6.6 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
                            [**2101-11-12**]  11:54 PM
                            [**2101-11-13**]  06:09 AM
                            [**2101-11-13**]  02:38 PM
                            [**2101-11-14**]  05:00 AM
                            [**2101-11-14**]  06:20 AM
   WBC
   9.0
   6.5
   5.7
   6.6
   Hct
   27.3
   24.7
   24.3
   22.2
   24.6
   Plt
   429
   349
   352
   331
   Cr
   1.0
   1.0
   1.0
   0.8
   TCO2
   40
   Glucose
   167
   150
   136
   152
   159
   Other labs: PT / PTT / INR:18.7/123.9/1.7, Differential-Neuts:75.4 %,
   Band:0.0 %, Lymph:11.3 %, Mono:4.3 %, Eos:8.6 %, Lactic Acid:0.7
   mmol/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   71 yo female with DM and now with progressive ventilatory compromise in
   the setting of substantial bilateral effusions.  She now has evolved a
   picture of significant bilateral pulmonary infiltrates seen on CT scan
   and based upon pulmonary infiltrates patient was started on treatment
   for pneumonia over weekend.  Of note patient with exudative effusions
   without evidence of active infection which are undergoing bilateral
   drainage.
   1)Respiratory Failure- Likely related to impaired chest wall function
   in the setting of chronic disease and weakness, possible pneumonia and
   certainly evolving pleural effusions.  Based upon these considerations
   will->
   A) PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)-
   -Vanco/levo/Flagyl x 7 days
   -Will follow up cultures
   B)Pleural Effusions--Bilateral
   -Chest tubes to suction and to be managed with IP service
   -Favor move of left chest tube to water seal with 50cc in 24 hours if
   pneumothorax stable
   -Continue suction to right chest tube
   -Main
   C)Weakness/Immobility-
   -PT to help ambulate patient and ideally get out of bed
 .H/O ATRIAL FIBRILLATION (AFIB)-_Stable rate
   -Continue with anticoagulation
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
   -Hepain continuing
 IMPAIRED SKIN INTEGRITY-
   -Patient with nutritional and skin care support
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2101-11-12**] 01:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2101-11-15 05:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   L chest tube put to WS per IP (f/u CXR this AM)
   Urine growing GNR
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2101-11-14**] 09:00 PM
   Metronidazole - [**2101-11-15**] 12:00 AM
   Infusions:
   Heparin Sodium - 825 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2101-11-15**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 89 (82 - 114) bpm
   BP: 114/64(76) {84/42(56) - 118/68(79)} mmHg
   RR: 14 (8 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
    CVP: 9 (9 - 21)mmHg
   Total In:
                                                                  4,009 mL
                                                                    686 mL
   PO:
                                                                  1,050 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,959 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  2,027 mL
                                                                    595 mL
   Urine:
                                                                    958 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,982 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Gen: morbidly obese, pale female, tachypnic, oriented x3
   HEENT: NC AT EOMI, PERRL, oropharynx clear
   CV: irregularly irregular, normal rate, no appreciable murmur
   Lungs: bronchial breath sounds over B/L lungs. Decreased breath sounds
   over L apex.  R subclavian in place, small amount of bleeding under
   bandage.
   Abd: obese, soft, NT, ND, BS+
   Ext: pitting edema bilaterally to sacrum
   Neuro: A&Ox3
   skin: multiple areas of skin breakdown appear to be in stages of
   healing, no evidence of acute infection
   Labs / Radiology
   362 K/uL
   8.1 g/dL
   113 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.9 mEq/L
   27 mg/dL
   100 mEq/L
   136 mEq/L
   25.5 %
   7.5 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
                            [**2101-11-12**]  11:54 PM
                            [**2101-11-13**]  06:09 AM
                            [**2101-11-13**]  02:38 PM
                            [**2101-11-14**]  05:00 AM
                            [**2101-11-14**]  06:20 AM
                            [**2101-11-14**]  03:47 PM
                            [**2101-11-14**]  09:46 PM
                            [**2101-11-15**]  04:47 AM
   WBC
   9.0
   6.5
   5.7
   6.6
   7.5
   Hct
   27.3
   24.7
   24.3
   22.2
   24.6
   24.0
   23.9
   25.5
   Plt
   429
   349
   352
   331
   362
   Cr
   1.0
   1.0
   1.0
   0.8
   0.8
   TCO2
   40
   Glucose
   167
   150
   136
   152
   159
   113
   Other labs: PT / PTT / INR:17.9/66.5/1.6, Differential-Neuts:75.4 %,
   Band:0.0 %, Lymph:11.3 %, Mono:4.3 %, Eos:8.6 %, Lactic Acid:0.7
   mmol/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 71 yo female with bilateral lower extremity paralysis
   s/p fall w/epidural hematoma and cord compression, h/o DVT s/p IVC
   filter, DM2, Afib with large L sided effusion and hypercarbic
   respiratory failure.
   .
   #Hypercarbic respiratory failure: most likely due to b/l pleural
   effusions and associated atelectasis with concern for superimposed
   multifocal pneumonia.  No evidence of obstructive airway disease on
   exam to explain her hypercarbia.  CT showed improvement in pleural
   effusions with bilateral small PTXs, and also multifocal pneumonia.
   Effusion most likely due to combination of Afib w/RVR and diastolic
   dysfunction as well as poor nutritional status.  No preceding PNA or
   pulmonary mass to support malignant effusion or empyema.   Pleural
   fluid looks like transudative process. CXR in evening shows apical
   pneumothorax on L (also seen post-pigtail placement).  Urine legionella
   antigen negative.
   - Vancomycin and levoquin for hospital acquired pneumonia
 will give
   10 day course ([**11-13**] to [**11-22**]) since patient afebrile, not producing
   sputum
   - to consider BAL sample if cannot get sputum sample and patient
   clinically worsens
   - blood culture
   -repeat cxr to eval for worsening pneumothorax
   -continue with rate control with metoprolol, hold for hypotension
   -continue to support nutritional status
 encourage PO intake
   -consider stopping flagyl pending culture results
   #Hypotension: Improved from day prior, but still present.  Likely a
   combination of poor PO intake and high output from pigtail catheters.
   -          500 cc NS boluses as needed
   -          Encourage PO intake
   -          Maintenance fluids
   .
   #Afib with RVR - she was started on metoprolol post operatively for
   Afib with RVR.  Currently well rate controlled, but most recent doses
   held due to hypotension.
   -continue metoprolol as allowed by BP
   .
   # Chest tubes/pigtails: Left tube with 50 cc output over 24 hrs
 will
   plan to seal and eventually remove.  Right pigtail with 500 cc output
   over 24 hrs.  Will allow it to continue to drain.
   - f/u CXR to assess for status of effusions and PTXs.
   # Hematocrit drop: hct stable per repeat hct this am, however, hct is
   down since admission.
   -check [**Hospital1 7**] hct.
   -consider stopping heparin if evidence of bleeding
   -guaiac all stools.
   #h/o DVT, s/p IVC filter placement: Patient has a history of L
   popliteal DVT, during her last admisison she had negative LENI's
   however due to concern about restarting coumadin in the setting of
   epidural bleed an IVC filter was placed by IR.  Prior to her discharge
   to rehab she was restarted on coumdain and had an INR of 2.3 on
   admission.
   - on heparin gtt
   -d/w IP when to re-start coumadin
   .
   #Anasarca - likely [**1-29**] diastolic chf c/b afib w/rvr as well as poor
   nutritional status.
   -holding lasix secondary to hypotension
   -continue to support nutrition
   .
   #. Type 2 Diabetes Mellitus: Stable
   - continue glargine and insulin sliding scale
   .
   #Skin breakdown - she has multiple areas of skin breakdown likely due
   to poor nutritional status and anasarca as well as new paralysis.
   -continue to support nutritional status, appreciate nutrition reccs
   -f/u wound care reccs
   .
   #Hyperlipidemia: Stable
   - continue fenofibrate and pravastatin
   .
   # FEN: diabetic diet; replete lytes prn
   -          continue multivitamin
   -          IVF boluses in 500 cc increments to support BP
   #Prophylaxis: wound care, heparin gtt, bowel regimen
   # Code Status: Full
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2101-11-12**] 01:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2101-11-15 11:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with improved chest tube drainage with persistent decrease in
   left sided chest tube
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Anesthesia Tray (Miscell)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2101-11-14**] 09:00 PM
   Metronidazole - [**2101-11-15**] 12:00 AM
   Infusions:
   Heparin Sodium - 825 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2101-11-15**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.3
   HR: 74 (74 - 114) bpm
   BP: 98/54(65) {88/42(56) - 118/66(78)} mmHg
   RR: 27 (8 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 121.5 kg (admission): 126 kg
   Height: 64 Inch
   CVP: 9 (9 - 21)mmHg
   Total In:
                                                                  4,047 mL
                                                                  1,429 mL
   PO:
                                                                  1,050 mL
                                                                    425 mL
   TF:
   IVF:
                                                                  2,997 mL
                                                                  1,004 mL
   Blood products:
   Total out:
                                                                  2,027 mL
                                                                    875 mL
   Urine:
                                                                    958 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,020 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   362 K/uL
   113 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.9 mEq/L
   27 mg/dL
   100 mEq/L
   136 mEq/L
   25.5 %
   7.5 K/uL
        [image002.jpg]
                            [**2101-11-11**]  11:49 AM
                            [**2101-11-12**]  02:20 AM
                            [**2101-11-12**]  11:54 PM
                            [**2101-11-13**]  06:09 AM
                            [**2101-11-13**]  02:38 PM
                            [**2101-11-14**]  05:00 AM
                            [**2101-11-14**]  06:20 AM
                            [**2101-11-14**]  03:47 PM
                            [**2101-11-14**]  09:46 PM
                            [**2101-11-15**]  04:47 AM
   WBC
   9.0
   6.5
   5.7
   6.6
   7.5
   Hct
   27.3
   24.7
   24.3
   22.2
   24.6
   24.0
   23.9
   25.5
   Plt
   429
   349
   352
   331
   362
   Cr
   1.0
   1.0
   1.0
   0.8
   0.8
   TCO2
   40
   Glucose
   167
   150
   136
   152
   159
   113
   Other labs: PT / PTT / INR:17.9/66.5/1.6, Differential-Neuts:75.4 %,
   Band:0.0 %, Lymph:11.3 %, Mono:4.3 %, Eos:8.6 %, Lactic Acid:0.7
   mmol/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Microbiology: U/A--GNR's seen
   Assessment and Plan
   71 yo female with admission with hypoxemic respiratory compromise in
   the setting of bilateral pleural effusions.  This is in the setting of
   significant and chronic compromise in the setting of baseline
   paralysis.  She has had continued high volume output from chest tubes
   bilaterally
the source of these effusions remains to be defined with
   confidence but it would appear that transudative effusionin the setting
   of low oncotic pressure may well be driving much of the pleural
   effusions presence.
   1)Respiratory Failure-
   -Vanco/Levo/Flagyl
   -Await culture results for any further modification of antibiotic
   dosing and will consider GNR
s in urine likely covered by current
   antibiotic dosing and will repeat
   2)Pleural Effusions-
   -Right chest tube
200cc in 6 hours, Left Chest Tube
250cc in 6 hours
   noted
   -Will need to follow up on chest tube drainage
   -[**Month (only) 51**] need to consider pleuradhesis if persistent drainge seen limiting
   ventilatory capacities.
   -Albumin to be re-checked and will follow up with nutrition
   3)DVT-Known in LE
   -ON Heparin gtt
   -Will transition back to coumadin dosing
   Additional issues to be addressed as defined in the housestaff note
 EDEMA, PERIPHERAL
 ELECTROLYTE & FLUID DISORDER, OTHER
 DIARRHEA
 IMPAIRED PHYSICAL MOBILITY
 DIABETES MELLITUS (DM), TYPE I
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 PLEURAL EFFUSION, ACUTE
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2101-11-12**] 01:13 PM
   Prophylaxis:
   DVT: IV Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes